US07981903B2
The 1-(bromoacetyl)-5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole (4.0 g, 12.7 mmol) was dissolved in 50 mL of dichloromethane, then K2CO3 (4.4 g, 31.7 mmol) and 3-piperidinol (1.54 g, 15.2 mmol) in 10 mL dichloromethane were added, the reaction was stirred at RT overnight. The reaction mixture was diluted with 100 mL of water, the organic solvents were washed with water (2×100 mL), dried over Na2SO4 and the solvent was removed under reduced pressure. The resulting residue was dissolved in 10 mL of EA, 25 mL of MeOH and 15 mL of THF, then 0.8 g 10% Pd/C was added, the reaction was stirred at RT overnight under balloon H2 pressure. The catalyst was removed via filtration and the solvent was removed under reduced pressure to yield 1-{2-[6-amino-5-(methyloxy)-2,3-dihydro-1H-indol-1-yl]-2-oxoethyl}-3-piperidinol as a white solid (3.0 g, 92%). 1HNMR (400 MHz, DMSO-d6) δ ppm: 1.09 (m, 1 H), 1.44 (m, 1 H), 1.62 (m, 1 H), 1.74 (m, 1H), 2.14(br, 1H), 2.47(s, 1H), 2.74(br, 2H), 2.95 (m, 4H), 3.50(s, 2H), 3.68(s, 3H), 4.04 (t, J=6.13 Hz,2 H), 4.71 (s, 2H), 6.68 (s, 1 H), 7.51 (s, 1 H).

reactant | 1-(bromoacetyl)-5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole | 12.7 mmol, 4.0 g | BrCC(=O)N1CCC2=CC(=C(C=C12)[N+](=O)[O-])OC | C11H11BrN2O4
reactant | K2CO3 | 31.7 mmol, 4.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-piperidinol | 15.2 mmol, 1.54 g | N1CC(CCC1)O | C5H11NO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | 1-{2-[6-amino-5-(methyloxy)-2,3-dihydro-1H-indol-1-yl]-2-oxoethyl}-3-piperidinol | 3.0 g, 92% | NC1=C(C=C2CCN(C2=C1)C(CN1CC(CCC1)O)=O)OC | C16H23N3O3
